US08426420B2
v) 4-[(S)-2-Amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid ethyl ester hydrotrifluoroacetate
To a solution of 120 mg 4-[(S)-2-tert-butoxycarbonylamino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 1.5 ml dichloromethane were added 0.4 ml TFA. After 2 h stirring at RT the solvents were removed and the residue was used without further purification. Yield: 130 mg.

reactant | 4-[(S)-2-tert-butoxycarbonylamino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)NC(=O)OC(C)(C)C)=O | C17H29N7O5
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-Amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)N)=O | C12H21N7O3
